US06784167B2
To a 0° C. solution of (±)-(4R*5R*)-5-{(1R*)-3-[3-(2,5-dimethylpyrrolyl)phenyl]-1-hydroxyprop-2-ynyl}-1-methyl-4-phenylpyrrolidin-2-one (prepared according to the procedure described for Example 8, 0.15 g, 0.37 mmol) and 2,6-lutidine (0.1 mL, 0.93 mmol) in CH2Cl2 (10 mL) was added TBDMSOTf (0.13 mL, 0.55 mmol). The reaction mixture was stirred for 2 h, allowed to warm to room temperature and treated with water. The resulting mixture was extracted with CH2Cl2, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography (80% EtOAc/hex) to give (±)-(4R*,5R*)-5-{(1R*)3-[3-(2,5-dimethylpyrrolyl)phenyl]-1-tert-butyldimethyl-silyloxyprop-2-ynyl}-1-methyl-4-phenylpyrrolidin-2-one (90 mg, 47%): mp 156-158° C.; TLC (50% EtOAc/hex) Rf 0.41.

reactant | 5-{(1R*)-3-[3-(2,5-dimethylpyrrolyl)phenyl]-1-hydroxyprop-2-ynyl}-1-methyl-4-phenylpyrrolidin-2-one | CC=1NC(=CC1C=1C=C(C=CC1)C#C[C@@H](O)C1C(CC(N1C)=O)C1=CC=CC=C1)C | C26H26N2O2
reactant | 2,6-lutidine | 0.93 mmol, 0.1 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | TBDMSOTf | 0.55 mmol, 0.13 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | water | O | H2O
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (±)-(4R*,5R*)-5-{(1R*)3-[3-(2,5-dimethylpyrrolyl)phenyl]-1-tert-butyldimethyl-silyloxyprop-2-ynyl}-1-methyl-4-phenylpyrrolidin-2-one | 90 mg, 47% | CC=1NC(=CC1C=1C=C(C=CC1)C#C[C@](C(C)(C)C)([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)O[SiH](C)C)C | C32H40N2O2Si
